US06124488
A double-walled reactor having a volume of 1 L, provided with baffles, condenser, top stirrer, thermometer and dropping funnel was charged with 900 g (11.25 mol) of clear 50% strength NaOH. Then 31 g of Aliquat 336 (77 mmol) and 26.8 g (0.41 mol) of freshly cracked cyclopentadiene were added. The reaction mixture was stirred turbulently for a few minutes. Then 155 g of 2-pentyl bromide (1.03 mol) were added over a period of 1 hour, cooling with water taking place at the same time. After 3 hours' stirring at room temperature the reaction mixture was warmed to 70° C., followed by a further 2 hours' stirring. Stirring was stopped and phase separation was awaited. The water layer was drawn off and 900 g (11.25 mol) of fresh 50% strength NaOH were added, followed by a further two hours' stirring at 70° C. GC was used to show that at that instant the mixture consisted of di- and tri(2-pentyl)cyclopentadiene (approximately 1:1). The products were distilled at 2 mbar, 79-81° C. and 0.5 mbar, 102° C., respectively. After distillation, 28 g of di- and 40 g of tri(2-pentyl)cyclopentadiene were obtained. Characterization took place with the aid of GC, GC-MS, 13C- and 1H-NMR.

reactant | NaOH | [OH-].[Na+]
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | 2-pentyl bromide | 1.03 mol, 155 g | CC(CCC)Br | C5H11Br
catalyst | Aliquat 336 | 77 mmol, 31 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | tri(2-pentyl)cyclopentadiene | 40 g | CC(CCC)C=1C(=C(CC1)C(C)CCC)C(C)CCC | C20H36
